US07473790B2
6-[2-(3-chloro-4-methoxyphenyl)ethyl]-3-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)methyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to Example B(31), where 6-cyclopentyl-6-[2-(3-fluoro-4-methoxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione was substituted in place of 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione and 5-chloro-1-methyl-1H-benzimidazole-2-carbaldehyde was substituted in place of 5,7-Dimethyl-[1,2,4]triazolo[1,5-α]pyrimidine-2-carbaldehyde.

reactant | 6-cyclopentyl-6-[2-(3-fluoro-4-methoxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)OC)F | C19H23FO4
reactant | 6-[2-(3-chloro-4-isopropoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione | ClC=1C=C(C=CC1OC(C)C)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
reactant | 5-chloro-1-methyl-1H-benzimidazole-2-carbaldehyde | ClC1=CC2=C(N(C(=N2)C=O)C)C=C1 | C9H7ClN2O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-α]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
product | 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-3-[(5-chloro-1-methyl-1H-benzimidazol-2-yl)methyl]-6-cyclopentyl-4-hydroxy-5,6-dihydro-2H-pyran-2-one | ClC=1C=C(C=CC1OC)CCC1(CC(=C(C(O1)=O)CC1=NC2=C(N1C)C=CC(=C2)Cl)O)C2CCCC2 | C28H30Cl2N2O4
